US07279600B2
3-Chloro-3′-fluoro-4′-methoxy-1,1′-biphenyl-4-carbaldehyde
The title compound was prepared by reacting trifluoro-methanesulfonic acid 3-chloro-4-formyl-phenyl ester (2.8 g, 9.62 mmol) with 3-fluoro-4-methoxyphenylboronic acid (1.8 g, 10.6 mmol) according to Method B to yield 1.87 g (74%, over two steps) of white solid: mp 116-118° C.; 1H NMR (DMSO-d6): δ 3.91 (3H, s), 7.30 (1H, t, J=8.79 Hz), 7.66-7.68 (1H, m), 7.79 (1H, dd, J=12.91 Hz, J=2.47 Hz), 7.85-7.87 (1H, m), 7.91 (1H, d, J=8.24 Hz), 7.96 (1H, d, J=1.65 Hz), 10.34 (1H, s); IR 1688 cm−1; MS (ESI) m/z 265/267 (M+H)+.

reactant | trifluoro-methanesulfonic acid 3-chloro-4-formyl-phenyl ester | 9.62 mmol, 2.8 g | ClC=1C=C(C=CC1C=O)OS(=O)(=O)C(F)(F)F | C8H4ClF3O4S
reactant | 3-fluoro-4-methoxyphenylboronic acid | 10.6 mmol, 1.8 g | FC=1C=C(C=CC1OC)B(O)O | C7H8BFO3
product | 3-Chloro-3′-fluoro-4′-methoxy-1,1′-biphenyl-4-carbaldehyde | ClC=1C=C(C=CC1C=O)C1=CC(=C(C=C1)OC)F | C14H10ClFO2
